US05728835
3-Hydroxymethyl-N-(2-methoxyphenyl)benzamide
N-Bromosuccinimide (1.29 g, 7.2 mmol) and AIBN (50 mg, 0.30 mmol) were suspended in carbon tetrachloride (80 ml), mixed with m-toluyl chloride (0.8 ml, 6.0 mmol) and then heated under reflux for 4 hours while exposing to light. After concentrating the reaction solution to 1/3 volume, insoluble materials were removed by filtration. To the resulting filtrate cooled in an ice bath were added dropwise o-anisidine (0.69 ml, 6 mmol) and 20% sodium hydroxide aqueous solution (5 ml) in that order. The resulting reaction mixture was stirred for 20 minutes at room temperature, extracted with methylene chloride and then washed with 10% citric acid aqueous solution, water and saturated brine in that order. After drying on anhydrous magnesium sulfate and removing the solvent by evaporation, the resulting light beige solid material was subjected to silica gel column chromatography (ether:hexane=1:1) to obtain creamy-colored powder. To this were added precipitated calcium carbonate (2.34 g, 23.4 mmol) and a dioxane-water (1:1) mixture solution (20 ml), followed by 6 hours of heating under reflux. After adding THF (50 ml) and filtering off the formed insoluble materials, the organic solvent was removed by evaporation. The resulting residue was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried on anhydrous magnesium sulfate, followed by the removal of the solvent by evaporation to obtain an orange oily material. This was dissolved in methanol (15 ml), and sodium borohydride (90 mg, 2.34 mmol) was added to the solution in one portion at -15° C. After 1 hour of stirring at the same temperature, the reaction mixture was mixed with acetone (1 ml), warmed to room temperature and then mixed with saturated ammonium chloride aqueous solution (10 ml). After removing methanol by evaporation, ethyl acetate extraction was carried out, and the resulting organic layer was washed with saturated brine, dried on anhydrous magnesium sulfate and then subjected to evaporation to remove the solvent. The thus obtained residue was subjected to silica gel column chromatography (ether:hexane=3:1), and the resulting colorless solid material was washed with an ether-hexane (2:1) mixture solution to obtain 1.02 g (66.1%) of the title compound in the form of colorless powder.

reactant | N-Bromosuccinimide | 7.2 mmol, 1.29 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | m-toluyl chloride | 6.0 mmol, 0.8 ml | C1(=CC(=CC=C1)Cl)C | C7H7Cl
reactant | o-anisidine | 6 mmol, 0.69 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | calcium carbonate | 23.4 mmol, 2.34 g | C([O-])([O-])=O.[Ca+2]
reactant | sodium borohydride | 2.34 mmol, 90 mg | [BH4-].[Na+]
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methanol | 15 ml | CO | CH4O
catalyst | AIBN | 0.30 mmol, 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | dioxane water | O1CCOCC1.O
product | 3-Hydroxymethyl-N-(2-methoxyphenyl)benzamide | 1.02 g, 66.1% | OCC=1C=C(C(=O)NC2=C(C=CC=C2)OC)C=CC1 | C15H15NO3
